US08067408B2
3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino) carbonyl]benzoic Acid
To the solution of methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate (0.29 g, 0.623 mmol) in MeOH/H2O (2/1 mL) was added LiOH.H2O (0.131 g, 3.12 mmol). The mixture was heated with a microwave at 80° C. for 30 min. Then HCl (1 N) was added to adjust the about pH 4˜5. The solvent was removed. The residue was washed with H2O and a little EtOAc and dried under vacuum to afford the title compound 0.20 g (70%). LC-MS m/z 452 (M+H)+.

reactant | methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate | 0.623 mmol, 0.29 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)OC)C=CC2)CC | C25H31N5O4
reactant | LiOH.H2O | 3.12 mmol, 0.131 g | O[Li].O
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH H2O | 1 mL | CO.O
product | 3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino) carbonyl]benzoic Acid | 0.20 g, 70% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
